US04234598
63 G. of pyrogallol are dissolved with stirring in 330 ml. of absolute alcohol in a flask under a nitrogen atmosphere. 56 G. of potassium hydroxide are added to the flask and the temperature of the reaction mixture rises to 65° C. To the resulting dark-brown, clear solution, 200 g. of 1,3-dibromopropane are added dropwise a over 30 minute period. The resulting mixture is refluxed overnight with stirring. The mixture is cooled to room temperature and filtered. The ethanolic solution is evaporated to dryness and the residual oil is dissolved in 200 ml. of ether. The ether solution is washed several times with water, dried over sodium sulfate, filtered and evaporated to dryness. A dark oil, 3,4-dihydro-2H-1,5-benzodioxepin-6-ol is obtained. This oil is recrystallized from ether and petroleum ether to yield white crystals, m.p. 112°-114° C.

reactant | pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 3,4-dihydro-2H-1,5-benzodioxepin-6-ol | O1CCCOC2=C1C=CC=C2O | C9H10O3
